US04599361
Potassium tertiary butoxide (2.1 g., 0.0188 mol.) was suspended in dry dimethylformamide (50 mls.). To the suspension was added benzyl dimethylphosphonoethanoate (4.6 g., 0.0187 mol.) at room temperature. The reaction mixture was stirred at room temperature for 0.5 hours. N-(4-Methyl-2-oxopentanoyl)-O-methyl-L-tyrosine N-Methylamide (3.0 g., 0.00913 mol) was added portionwise to the reaction mixture over a period of 10 minutes to yield a red solution. The red solution was stirred at room temperature for 4 hours, and then poured into water (500 mls.). The resulting mixture obtained was extracted with ethyl acetate (2×100 mls.) and the ethyl acetate extract was washed with water (2×25 mls.), brine (25 mls.) and dried over anhydrous magnesium sulfate. The ethyl acetate was removed by evaporation in vacuo to yield a crude solid product (4.2 g.). The crude product was purified by recrystallization from a mixture of ethyl acetate and hexane to yield E and Z N-[3-(benzyloxycarbonyl)-2-(2-methylpropyl)propenoyl]-O-methyl-L-tyrosine N-methylamide as a light brown crystalline solid. (m.p. 167°-9° C. Found: C, 68.3; H, 7.1; N, 6.3 %. C25H30N2O5 requires C, 68.5; H, 6.9; N, 6.4%).

reactant | Potassium tertiary butoxide | 0.0188 mol, 2.1 g | CC(C)([O-])C.[K+]
reactant | benzyl dimethylphosphonoethanoate | 0.0187 mol, 4.6 g | COP(=O)(OC)CC(=O)OCC1=CC=CC=C1 | C11H15O5P
reactant | N-(4-Methyl-2-oxopentanoyl)-O-methyl-L-tyrosine N-Methylamide | 0.00913 mol, 3.0 g | CNC([C@@H](NC(C(CC(C)C)=O)=O)CC1=CC=C(C=C1)OC)=O | C17H24N2O4
reactant | water | 500 mls | O | H2O
solvent | dimethylformamide | 50 mls | CN(C=O)C | C3H7NO
product | N-[3-(benzyloxycarbonyl)-2-(2-methylpropyl)propenoyl]-O-methyl-L-tyrosine N-methylamide | CNC([C@@H](NC(C(=CC(=O)OCC1=CC=CC=C1)CC(C)C)=O)CC1=CC=C(C=C1)OC)=O | C26H32N2O5
